US04735959
Ethyl 4-[(α-cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate
Two hundred thirty-four milligrams (1.22 m mol) of 4-toluene-sulfochloride were added in two batches to 520 mg (1.22 m mol) of ethyl 4-[(α-aminocarbonyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate in 0.22 ml of pyridine, and the mixture was heated to 50° C. After two hours and then one hour later, the same quantities of pyridine and 4-toluene-sulfochloride were again added, and the resulting mixture was heated for a further hour at 50° C. After the mixture was left to stand for two days at 20° C., 2N ammonia was added, and the mixture was extracted with chloroform. The chloroform solution was extracted twice with water. After drying and filtering, the solution was concentrated by evaporation in vacuo. The evaporation residue was purified by column chromatography on silica gel [chloroform/methanol (10:1)].

reactant | ethyl 4-[(α-aminocarbonyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | 520 mg | NC(=O)C(C1=C(C=CC=C1)N1CCCCC1)C(C1=CC=C(C(=O)OCC)C=C1)C(=O)N | C24H29N3O4
reactant | ammonia | 2N | N | H3N
solvent | pyridine | 0.22 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-[(α-cyano-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(#N)C(C1=C(C=CC=C1)N1CCCCC1)C(C1=CC=C(C(=O)OCC)C=C1)C(=O)N | C24H27N3O3
